US06284923B1
1-[(3,4-Dimethoxyphenyl)aminosulfonyl]-3-fluoro-5-nitro-4-trifluoromethoxy-benzene.
3,4-Dimethoxyaniline (1.53 g, 10 mmol) is added to a solution of 3-fluoro-5-nitro-4-trifluoromethoxyphenylsulfonyl chloride (2.87 g, 12 mmol) in MeOH (20 ml) at ambient temperature. After stirring at room temperature for 15 min, the reaction mixture is concentrated under reduced pressure and the residue is taken up in ethyl acetate and filtered through a pad of silica gel. Concentration of the filtrate, followed by chromatography, provides the title compound.

reactant | 3,4-Dimethoxyaniline | 10 mmol, 1.53 g | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | 3-fluoro-5-nitro-4-trifluoromethoxyphenylsulfonyl chloride | 12 mmol, 2.87 g | FC=1C=C(C=C(C1OC(F)(F)F)[N+](=O)[O-])S(=O)(=O)Cl | C7H2ClF4NO5S
solvent | MeOH | 20 ml | CO | CH4O
product | 1-[(3,4-Dimethoxyphenyl)aminosulfonyl]-3-fluoro-5-nitro-4-trifluoromethoxy-benzene | COC=1C=C(C=CC1OC)NS(=O)(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])OC(F)(F)F)F | C15H12F4N2O7S
